US07709509B2
To a solution of 100 mg of 4-fluoro-2-trifluoromethyl benzonitrile in 5 ml of anhydrous dimethylformamide was added 200 mg of [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol and 0.49 g of cesium carbonate. The resulting mixture was stirred at room temperature overnight, poured onto water and extracted with heptane 1/ethyl acetate 3. The organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (heptane 4/ethyl acetate 1) to give 180 mg of 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-trifluoromethyl-benzonitrile.

reactant | 4-fluoro-2-trifluoromethyl benzonitrile | 100 mg | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | [4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | 200 mg | C(CCC)C=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H16F3NOS
reactant | cesium carbonate | 0.49 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-trifluoromethyl-benzonitrile | 180 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(C#N)C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C23H18F6N2OS
